US06984734B2
Ethyl 4-dodecanoyl-2-pyrrolecarboxylate.
Starting with 10.0 g of ethyl pyrrole carboxylate (72 mmol) and 33 ml (144 mmol) of dodecanoylchloride and following a procedure analogous to the one described above, 7.65 g (33% yield) of the desired product is obtained. 1H NMR (δ ppm, CDCl3): 9.66 (s, br, 1H, NH); 7.51 (dd, J=1.61, 3.40; 1H, α-pyrrolic); 7.26 (dd, J=1.61, 2.60; 1H ; β-pyrrolic); 4.33 (q, 2H, J=7.16 Hz, CO2Et); 2.73 (t, 2H, J=7.53; α-CO CH2); 1.68 (m, 2H, β-CO CH2); 1.35 (t, 3H, J=7.16; CO2Et); 1.23 (m, 16H, alkyl-CH2); 0.85 (t, 3H, J=7.02, end CH3). 13C NMR (δ ppm, CDCl3): 196.21; 160.96; 127.19; 125.88; 124.09; 114.68; 60.92; 39.81; 31.89; 29.60; 29.58; 29.49; 29.45; 29.41; 29.31; 24.62; 22.66; 14.34; 14.08. Exact mass calculated for C19H32NO3 (M+H)=322.238219, found=322.238983.

reactant | ethyl pyrrole carboxylate | 72 mmol, 10.0 g | N1C(=CC=C1)C(=O)OCC | C7H9NO2
reactant | dodecanoylchloride | 144 mmol, 33 ml | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | Ethyl 4-dodecanoyl-2-pyrrolecarboxylate | 7.65 g, 33% yield | C(CCCCCCCCCCC)(=O)C=1C=C(NC1)C(=O)OCC | C19H31NO3
